US08835462B2
To a solution of tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate (3.586 g, 6.69 mmol) in CH2Cl2 (33 mL) was added HCl (4M in dioxane; 33.5 ml, 134 mmol, 20 equiv). This solution was stirred for 1 h and concentrated to furnish (3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-aminium chloride as a white solid. The solid was suspended in CH2Cl2 (66 mL), and N-methylmorpholine (4.42 ml, 40.2 mmol, 6.00 equiv) was added, causing dissolution of the solid. To this solution were added 3-hydroxy-4-methoxypicolinic acid (1.70 g, 10.0 mmol, 1.50 equiv) and HATU (4.07 g, 10.71 mmol, 1.60 equiv). The resulting suspension was stirred at room temperature for 20 h, concentrated, and purified by automated silica gel column chromatography (2-12% acetone in CH2Cl2) to yield N-((3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)-3-hydroxy-4-methoxypicolinamide (2.08 g, 63.9%) as a yellow oil.

reactant | tert-butyl N-[(3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-yl]-N-tert-butoxycarbonylcarbamate | 6.69 mmol, 3.586 g | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)C)C)=O)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H45NO8
reactant | HCl | 134 mmol, 4M, 33.5 ml, 20 equiv | Cl | ClH
solvent | CH2Cl2 | 33 mL | C(Cl)Cl | CH2Cl2
product | (3S,7S,8R,9S)-7-benzyl-8-isobutoxy-9-methyl-2-oxo-1,5-dioxonan-3-aminium chloride | [Cl-].C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1OCC(C)C)C)=O)[NH3+] | InChI=1S/C19H29NO4.ClH/c1-13(2)10-23-18-14(3)24-19(21)17(20)12-22-11-16(18)9-15-7-5-4-6-8-15;/h4-8,13-14,16-18H,9-12,20H2,1-3H3;1H/t14-,16-,17-,18-;/m0./s1
